US07709469B2
5-(2,3-dichlorophenyl)-1H-tetrazole
A 2.0 M solution of Al(CH3)3 in toluene (35 mL) was treated with 2,3-dichlorobenzonitrile (8.00 g, 37.2 mmol), azidotrimethylsilane (5.14 g, 44.6 mmol) slowly, and heated at 80° C. for 16 hours behind a blast shield. The mixture was cooled to 0° C. and treated with 2N HCl (100 mL) dropwise over 1 hour. The mixture was allowed to warm to ambient temperature and extracted twice with ethyl acetate (100 mL). The combined organic phases were dried over Na2SO4, filtered through a ½″ pad of silica gel, and the filtrate was evaporated under reduced pressure. The residue was purified by recrystallization from ethyl acetate/hexanes to provide the title compound. MS (DCI/NH3) m/z 215 (M)+; 1H NMR (DMSO-d6) δ 7.59 (t, 1H, J=8.0 Hz), 7.79 (dd, 1H, J=7.8, 1.7 Hz), 7.92 (dd, 1H, J=8.1, 1.7 Hz).

reactant | Al(CH3)3 | [Al](C)(C)C
reactant | 2,3-dichlorobenzonitrile | 37.2 mmol, 8.00 g | ClC1=C(C#N)C=CC=C1Cl | C7H3Cl2N
reactant | azidotrimethylsilane | 44.6 mmol, 5.14 g | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | HCl | 2N, 100 mL | Cl | ClH
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(2,3-dichlorophenyl)-1H-tetrazole | ClC1=C(C=CC=C1Cl)C1=NN=NN1 | C7H4Cl2N4
